US05747518
1) Methyl 3-(t-butoxycarbonylamino)thiophene-2-carboxylate
To a solution containing 10 g of methyl 3-aminothiophene-2-carboxylate and 7.72 g of triethylamine in 50 ml of methylene chloride, a solution containing 13.9 g of di-t-butyl dicarbonate in 20 ml of methylene chloride was dropwise added and successively, a catalytic amount of 4-dimethylaminopyridine was added. The mixture was stirring at room temperature for 5 hours. After finishing the reaction, the organic layer was separated washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the precipitated crystal was filtered. The filtrate was purified by silica gel column chromatography to obtain 4.2 g of the product as a colorless crystal. The yield was 75%. 1H-NMR(CDCl3, δ value):1.52(9H, s), 3.88(3H, s), 7.43(1H, d, J=5.1), 7.88(1H, d, J=5.1), 9.35(1H, brs)

reactant | methyl 3-aminothiophene-2-carboxylate | 10 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | triethylamine | 7.72 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 13.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 3-(t-butoxycarbonylamino)thiophene-2-carboxylate | 4.2 g, yield was 75% | C(C)(C)(C)OC(=O)NC1=C(SC=C1)C(=O)OC | C11H15NO4S
